US05594021
Cuprous chloride (3.08 g, 31.1 mmol) and phenol (8.78 g, 93.3 mmol) were sequentially added to a solution of 3-bromothiophene (5.06 g, 31.1 mmol) in pyridine (150 ml). Sodium hydride (3.73 g, 93.3 mmol, 60% dispersion in mineral oil) was then slowly added. The reaction was heated at reflux for 20 hours under Argon. The pyridine was removed under reduced pressure. The residue was diluted with Et2O (200 ml) and washed with 1N NaOH (3×100 ml), 1N HCl (2×150 ml) and 1N NaOH (150 ml). The organic layer was dried (MgSO4), filtered, and the solvent was evaporated. The residue was chromatographed using hexanes to give 3-phenoxy-thiophene as a clear oil (4.0 g, 74% yield).

reactant | phenol | 93.3 mmol, 8.78 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3-bromothiophene | 31.1 mmol, 5.06 g | BrC1=CSC=C1 | C4H3BrS
reactant | Sodium hydride | 93.3 mmol, 3.73 g | [H-].[Na+]
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-phenoxy-thiophene | 4.0 g, 74% yield | O(C1=CC=CC=C1)C1=CSC=C1 | C10H8OS
